US06043377
2.0 g (15 mmol) of potassium carbonate are added to a solution of 2.2 g (10 mmol) of 4-chloro-5-(4-tolyl)-imidazole-2-carbonitrile in 30 ml of acetonitrile, and the mixture is stirred at 20° C. for 10 minutes. The mixture is subsequently admixed with 1.9 g (10 mmol) of 3,5-dimethylisoxazole-4-sulphonyl chloride and stirred at 20° C. for 4 hours. The reaction mixture is then poured into 150 ml of water and extracted with 50 ml of ethyl acetate. The combined organic phases are dried over sodium sulphate and then concentrated under reduced pressure. The residue that remains is chromatographed over silica gel using methylene chloride as mobile phase. Concentration of the eluate under reduced pressure gives 1.8 g (50% of theory) of 4-chloro-1-(3,5-dimethylisoxazol-4-yl-sulphonyl)-5-(4-tolyl)-imidazole-2-carbonitrile in the form of a colourless solid of melting point 103 to 108° C.

reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-5-(4-tolyl)-imidazole-2-carbonitrile | 10 mmol, 2.2 g | ClC=1N=C(NC1C1=CC=C(C=C1)C)C#N | C11H8ClN3
reactant | 3,5-dimethylisoxazole-4-sulphonyl chloride | 10 mmol, 1.9 g | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | water | 150 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-chloro-1-(3,5-dimethylisoxazol-4-yl-sulphonyl)-5-(4-tolyl)-imidazole-2-carbonitrile | 1.8 g, 50% | ClC=1N=C(N(C1C1=CC=C(C=C1)C)S(=O)(=O)C=1C(=NOC1C)C)C#N | C16H13ClN4O3S
